* C:\Users\nicop\Documents\GitHub\TP-Final-Fisica-Electronica\Spice\Circuito_MOS_VAC\Draft3.asc
M1 N002 N003 0 0 LND150h
V1 N001 0 {vdd}
V2 0 N003 {vgs}
R1 N001 N002 {rd}
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\nicop\AppData\Local\LTspice\lib\cmp\standard.mos
.param rd 8500
.param vgs 0.3
.param vdd 10
.op
.backanno
.end
